US06323199B1
8.2 ml of methyl iodide is added to 10 g of 3-chlorosalicylic acid and 18 g of potassium carbonate in 88 ml of dimethylformamide, and the mixture is stirred overnight. It is diluted with water, extracted with ethyl acetate, the organic phase is dried (Na2SO4) and concentrated by evaporation. The residue is distilled on a bulb tube. 10 g of 3-chloro-2-methoxybenzoic acid methyl ester is obtained, boiling point 100° C./0.17 mbar.

reactant | methyl iodide | 8.2 ml | CI | CH3I
reactant | 3-chlorosalicylic acid | 10 g | ClC1=C(C(C(=O)O)=CC=C1)O | C7H5ClO3
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 88 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-chloro-2-methoxybenzoic acid methyl ester | 10 g | COC(C1=C(C(=CC=C1)Cl)OC)=O | C9H9ClO3
